US06693190B1
A. trans-2,5-Dihydroxy-1,4-dimethylene Cyclohexane
A warm solution of dry, recrystallized diethyl 1,4-cyclohexanedione-2,5-dicarboxylate (30.75 g, 120 mmol) in 350 ml anhydrous tetrahydrofuran (THF) was added to a refluxing solution of 1.0 M LAH in THF (600 mL) over a 2 hour period. After an additional 1.5 hours at reflux and subsequent cooling, a saturated solution of aqueous Rochelles's salt (app. 73 mL) was added dropwise to the reaction mixture. The tartrate complex was filtered, washed with THF and the filtrate was concentrated to a paste. The paste was recrystallized from hot ethyl acetate; yield 4.39 g (31.3 mmol, 26.1%). A second recrystallization yielded 3.81 g (27.2 mmol, 22.6%).

reactant | diethyl 1,4-cyclohexanedione-2,5-dicarboxylate | 120 mmol, 30.75 g | CCOC(=O)C1CC(=O)C(CC1=O)C(=O)OCC | C12H16O6
reactant | LAH | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | THF | 600 mL | O1CCCC1 | C4H8O
product | trans-2,5-Dihydroxy-1,4-dimethylene Cyclohexane | O[C@@H]1C(C[C@H](C(C1)=C)O)=C | C8H12O2
